US08703953B2
A mixture of 8-chloro-2-methyl-5H-chromeno[3,4-c]pyridine (0.2 g, 0.863 mmol), (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate (0.225 g, 1.036 mmol), palladium(II) acetate (5.81 mg, 0.026 mmol), Cs2CO3 (0.422 g, 1.295 mmol) and 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl (0.022 g, 0.052 mmol) in toluene (5 mL) was heated to 110° C. for 18 h. After cooling, the mixture was filtered through celite and concentrated under reduced pressure. The crude product was purified by silica gel chromatography (70% EtOAc in pet. ether) to afford (S)-tert-butyl(4-methyl-1-((2-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate, as a semi-solid (0.12 g, 0.291 mmol, 34% yield). LCMS (ESI) m/e 413.4 [(M+H)+, calcd for C24H33N2O4 413.2]; LC/MS retention time (Method D): tR=2.42 min.

reactant | 8-chloro-2-methyl-5H-chromeno[3,4-c]pyridine | 0.863 mmol, 0.2 g | ClC=1C=CC2=C(C1)OCC1=CN=C(C=C12)C | C13H10ClNO
reactant | (S)-tert-butyl(1-hydroxy-4-methylpentan-2-yl)carbamate | 1.036 mmol, 0.225 g | C(C)(C)(C)OC(N[C@H](CO)CC(C)C)=O | C11H23NO3
reactant | Cs2CO3 | 1.295 mmol, 0.422 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-di-tert-butylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.052 mmol, 0.022 g | C(C)(C)(C)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C(C)(C)C | C29H45P
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | palladium(II) acetate | 0.026 mmol, 5.81 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (S)-tert-butyl(4-methyl-1-((2-methyl-5H-chromeno[3,4-c]pyridin-8-yl)oxy)pentan-2-yl)carbamate | C(C)(C)(C)OC(N[C@H](COC=1C=CC2=C(C1)OCC1=CN=C(C=C12)C)CC(C)C)=O | C24H32N2O4
